US07169925B2
Step F7: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic Acid 2-diethylamino-ethyl ester
Stir under N2 at 0° C. a suspension of NaH (29 mg, 0.72 mmol of 60% oil dispersion) in 1-methyl-2-pyrrolidinone (15 mL), and slowly add N,N-diethylethanolamine(0.095 mL, 0.72 mmol). Stir for 10 min and then add dropwise 3-(pyridin-4-ylamino)-1H-indole-2-carboxylic acid pentafluorophenyl ester (100 mg, 0.24 mmol). Allow the reaction to reach ambient temperature and stir overnight. Quench into water and extract with ethyl acetate. Wash the extract with water, brine, dry (MgSO4), filter and concentrate under vacuum to obtain crude product. Chromatograph on silica gel (10 g, Sepack cartridge) and use 1:1 methanol/ethyl acetate as eluent. Combine like fractions and concentrate under vacuum to obtain 26.3 mg (31%) of the titled compound: MS 353 (M+H).

reactant | NaH | 0.72 mmol, 29 mg | [H-].[Na+]
reactant | N,N-diethylethanolamine | 0.72 mmol, 0.095 mL | C(C)N(CCO)CC | C6H15NO
reactant | 3-(pyridin-4-ylamino)-1H-indole-2-carboxylic acid pentafluorophenyl ester | 0.24 mmol, 100 mg | FC1=C(C(=C(C(=C1OC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1)F)F)F)F | C20H10F5N3O2
solvent | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic Acid 2-diethylamino-ethyl ester | 26.3 mg, 31% | C(C)N(CCOC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1)CC | C20H24N4O2
